US06730670B2
(4-Methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amine
A stirred solution of (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-carbamic acid benzyl ester (1.7 g, 4.36 mmol) in ethylene gylcol and dioxane was heated under reflux with 2N NaOH (20 ml, 9.1 eq) for 4 h. After cooling and addition of water (20 ml) the mixture was extracted with EtOAc (3×25 ml), the combined extracts were washed with brine, dried with Na2SO4 filtered and evaporated. The crude residue was then chromatographed over silica gel eluting with dichloromethane/2N NH3 in MeOH (99:1). This afforded the title compound (668 mg, 60% yield) as a red gum. MS m/e=256.2 (M+)

reactant | (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-carbamic acid benzyl ester | 4.36 mmol, 1.7 g | C(C1=CC=CC=C1)OC(NC1=CC2=C(S1)C(=CC=C2OC)C2=CC=CC=C2)=O | C23H19NO3S
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | NaOH | 2N, 20 ml, 9.1 eq | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | ethylene | C=C | C2H4
product | (4-Methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amine | 668 mg, 60% yield | COC1=CC=C(C=2SC(=CC21)N)C2=CC=CC=C2 | C15H13NOS
